US07947851B2
Step a) Formation of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}(ethyl)amino)-2-fluorobenzoate
The title compound was prepared following the procedure described in Example 23 step b) using methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate (prepared in Example 23, step a) and ethanol. The title compound was obtained as a pale yellow oil (215 mg). HPLC, Rt: 5.8 min (purity: 98.9%).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | ethanol | C(C)O | C2H6O
product | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}(ethyl)amino)-2-fluorobenzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CC)C=C1 | C29H30FNO2
